US04420424
(I) H-Arg-Lys-Glu-Val-Tyr-OH acetate
1 g of H-Arg-Lys(Boc)-Glu(OBut)-Val-Tyr(But)-OBut.2HCl (0.966 mmole) is dissolved in a mixture of 10 ml of trifluoroacetic acid and 1 ml of ethylmercaptan. The mixture is allowed to stand for one hour at room temperature and is concentrated. The residue is dissolved again in a little methanol and the solution is concentrated once more. The residue is dissolved in water, insoluble matter is filtered off and the solution is chromatographed over a strongly basic exchanger in the acetate form. The eluate is concentrated and purified further by being chromatographed on a hydroxypropylated crosslinked dextran gel in a water/acetic acid/n-butanol mixture. Yield 491 mg (57%), [α]D =-21.8° (c=1, water). Aminoacid analysis: Glu 1.00, Val 0.97, Tyr 0.92, Lys 1.03 and Arg 0.99. Protein content: 82%.

reactant | H-Arg-Lys(Boc)-Glu(OBut)-Val-Tyr(But)-OBut.2HCl | 0.966 mmole, 1 g | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C.Cl.Cl
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethylmercaptan | 1 ml | C(C)S | C2H6S
product | H-Arg-Lys-Glu-Val-Tyr-OH acetate | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O.CC(=O)O | InChI=1S/C31H51N9O9.C2H4O2/c1-17(2)25(29(47)39-23(30(48)49)16-18-8-10-19(41)11-9-18)40-28(46)22(12-13-24(42)43)38-27(45)21(7-3-4-14-32)37-26(44)20(33)6-5-15-36-31(34)35;1-2(3)4/h8-11,17,20-23,25,41H,3-7,12-16,32-33H2,1-2H3,(H,37,44)(H,38,45)(H,39,47)(H,40,46)(H,42,43)(H,48,49)(H4,34,35,36);1H3,(H,3,4)/t20-,21-,22-,23-,25-;/m0./s1
